US08044042B2
2-methoxyethyl (S)-{4-[4-(2-ethyl-2H-pyrazol-3-ylamino)phenyl]-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl}acetate
Thionyl chloride (230 μL) and the intermediate synthesized in Example 151, (S)-4-[4-(2-ethyl-2H-pyrazol-3-ylamino)phenyl]-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-acetic acid (500 mg), were successively added to methoxy ethanol (10 mL) at 0° C., and the mixture was stirred at room temperature for 1 day. After completion of the reaction, the mixture was partitioned by adding water and ethyl acetate. The organic layer was washed with aqueous sodium hydrogencarbonate, and the solvent was evaporated. The residue was purified by column chromatography (chloroform:methanol=100:1) to give the title compound (410 mg).

reactant | Thionyl chloride | 230 μL | S(=O)(Cl)Cl | Cl2OS
reactant | (S)-4-[4-(2-ethyl-2H-pyrazol-3-ylamino)phenyl]-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-acetic acid | 500 mg | C(C)N1N=CC=C1NC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C(=C(S3)C)C)C(=NN2)C)CC(=O)O | C24H25N7O2S
reactant | methoxy ethanol | 10 mL | COC(C)O | C3H8O2
product | 2-methoxyethyl (S)-{4-[4-(2-ethyl-2H-pyrazol-3-ylamino)phenyl]-2,3,9-trimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-6-yl}acetate | 410 mg | C(C)N1N=CC=C1NC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C(=C(S3)C)C)C(=NN2)C)CC(=O)OCCOC | C27H31N7O3S
